US07655666B2
2-Amino-5-furan-3-yl-4-trifluoromethyl-benzoic acid methyl ester
Concentrated H2SO4 (1.4 mL) was added to a solution of 2-acetylamino-5-furan-3-yl-4-trifluoromethyl-benzoic acid methyl ester (156 mg, 0.47 mmol) in MeOH (15 mL). The mixture was stirred for 1 h (TLC control) at 90° C. The mixture was filtered over Celite and evaporated under reduced pressure. The yellow solid obtained was used in the next step without further purification (rt 5.95 min.).

reactant | H2SO4 | 1.4 mL | OS(=O)(=O)O | H2O4S
reactant | 2-acetylamino-5-furan-3-yl-4-trifluoromethyl-benzoic acid methyl ester | 0.47 mmol, 156 mg | COC(C1=C(C=C(C(=C1)C1=COC=C1)C(F)(F)F)NC(C)=O)=O | C15H12F3NO4
solvent | MeOH | 15 mL | CO | CH4O
product | 2-Amino-5-furan-3-yl-4-trifluoromethyl-benzoic acid methyl ester | COC(C1=C(C=C(C(=C1)C1=COC=C1)C(F)(F)F)N)=O | C13H10F3NO3
